US04673672
(a) Preparation of 2-benzyloxymethyl-1-eicosene
To a stirred suspension of 5.0 g of methyl triphenylphosphonium bromide in 50 ml of anhydrous tetrahydrofuran and 4.0 ml of hexamethylphosphorous triamide was gradually added 27 ml of 0.5M potassium bis-trimethylsilylamide. The resultant mixture was then stirred at room temperature for 30 minutes, after which time it was cooled to -60° C. (dry ice/acetone bath) and treated dropwise with a solution of 8.0 g (210 mmol) of the compound of Example 2(b) in 50 ml of anhydrous tetrahydrofuran and stirred for 1 hour at -60° C. and for 1 hour at ice bath temperature. The solids were then filtered off and the filtrate evaporated in vacuo to afford an oil. The oil was then chromatographed on silica gel employing a mixture of petroleum ether and methyl-t-butyl ether in a ratio of 9:1 as the eluent to yield a yellow oil.

reactant | potassium bis-trimethylsilylamide | 0.5M, 27 ml | C[Si](C)(C)[N-][Si](C)(C)C.[K+]
reactant | dry ice acetone | C(=O)=O.CC(=O)C
reactant | tetrahydrofuran | 50 ml | O1CCCC1 | C4H8O
reactant | tetrahydrofuran | 50 ml | O1CCCC1 | C4H8O
catalyst | methyl triphenylphosphonium bromide | 5.0 g | [Br-].C[P+](C1=CC=CC=C1)(C1=CC=CC=C1)C1=CC=CC=C1
solvent | hexamethylphosphorous triamide | 4.0 ml | CN(P(N(C)C)N(C)C)C | C6H18N3P
product | 2-benzyloxymethyl-1-eicosene | C(C1=CC=CC=C1)OCC(=C)CCCCCCCCCCCCCCCCCC | C28H48O
